US08877936B2
2-bromo-2-methylpropanoyl bromide (4.50 g, 19.57 mmol) was added to a mixture of 2,4,6-trimethylaniline (2.41 g, 17.78 mmol), triethylamine (3.60 g, 35.56 mmol), and CH2Cl2 (20 ml) at 0° C. under Ar atmosphere. The cooling bath was removed after the addition was completed, and the reaction mixture was stirred at room temperature for 1.5 hour, after which time the mixture was diluted with CH2Cl2 (20 ml) and added aqueous solution of NH4Cl. After the aqueous phase was separated, the organic layer was washed with brine and dried over anhydrous MgSO4. Filtration and concentration of the filtrate gave 2-bromo-N-mesityl-2-methylpropanamide as a pale yellow solid (5.05 g, 17.78 mmol, 100%). A solution of this amide (284 mg, 1.00 mmol) in dry THF (5 ml) was added to a mixture of sodium hydride (60% in mineral oil, 80 mg, 2.00 mmol), aniline (112 mg, 1.20 mmol) and THF (5 ml), and the resulting mixture was stirred for overnight at room temperature. The mixture was then added an aqueous solution of NH4Cl (15 ml), extracted with ethyl acetate (20 ml×2), and the combined organic layer was washed with brine then dried over anhydrous Na2SO4. After filtration, the filtrate was concentrated under vacuum, and the residue was purified by column chromatography on silica (eluent: Hexane/Ethyl acetate=5/1˜4/1) to give the amide as a white solid (255 mg, 0.86 mmol, Y=86%). 1H NMR (300 MHz, CDCl3): δ 8.35 (s, 1H), 7.25-7.17 (m, 2H), 6.84-6.71 (m, 5H), 3.98 (s, 1H), 2.23 (s, 3H), 2.11 (s, 6H), 1.63 (s, 6H). 13C NMR (75 MHz, CDCl3): δ 173.8, 144.5, 136.4, 134.8, 131.0, 129.0, 119.2, 116.2, 58.4, 26.2, 20.8, 18.6. IR: 3341 (m), 3310 (s), 2987 (w), 1666 (s), 1607 (m), 1488 (s), 1376 (m), 1318 (m), 1264 (m), 1210 (m), 1162 (m), 850 (m), 749 (s), 696 (m) cm−1. HRMS Calc'd for C19H24N2O: 297.1967. Meas: 297.1956.

reactant | 2-bromo-2-methylpropanoyl bromide | 19.57 mmol, 4.50 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | 2,4,6-trimethylaniline | 17.78 mmol, 2.41 g | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | triethylamine | 35.56 mmol, 3.60 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-bromo-N-mesityl-2-methylpropanamide | 17.78 mmol, 5.05 g, 100% | BrC(C(=O)NC1=C(C=C(C=C1C)C)C)(C)C | C13H18BrNO
